US05958918
C. 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl](7-methoxynaphthalene-2-sulfonyl)amino]acetamide
To a solution of 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid (0.40 g, 0.80 mmol) in 6 mL of THF at -15° C. is added triethyl amine (0.10 g, 0.96 mmol) and ethyl chloroformate (0.09 g, 0.84 mmol). The solution is stirred for 1 hour. After this time, NH4OH (0.07 mL, 0.90 mmol) is added and the solution is allowed to warm to ambient temperatures. After 16 hours, the solution is diluted with EtOAc. The solution is washed with 1 N HCl, sat. NaHCO3 and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The title compound (0.28 g, 0.56 mmol) is obtained as a white foam.

reactant | 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(7-methoxynaphthalene-2-sulfonyl)amino]acetic acid | 0.80 mmol, 0.40 g | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(CC(=O)O)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C23H21N3O6S2
reactant | triethyl amine | 0.96 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.84 mmol, 0.09 g | ClC(=O)OCC | C3H5ClO2
reactant | NH4OH | 0.90 mmol, 0.07 mL | [NH4+].[OH-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl](7-methoxynaphthalene-2-sulfonyl)amino]acetamide | 0.56 mmol, 0.28 g | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(CC(=O)N)S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C23H22N4O5S2
